US09388189B2
a) 4-Bromo-1-(methylsulfonyl)-1H-pyrrolo[2,3-b]pyridine
4-Bromo-1H-pyrrolo[2,3-b]pyridine (250 mg, 1.27 mmol) was dissolved in 5 ml N—N, dimethylformamide. Sodium hydride was slowly added and the mixture was stirred for 15 minutes. Methanesulfonyl chloride (66 μl, 0.85 mmol) was added and the reaction mixture was stirred at room temperature overnight. The reaction was extracted with ethyl acetate and washed with water. The organic phase was dried over sodium sulphate, filtered and evaporated under reduced pressure. The residue (200 mg) was used in the next synthetic step without further purification.

reactant | 4-Bromo-1H-pyrrolo[2,3-b]pyridine | 1.27 mmol, 250 mg | BrC1=C2C(=NC=C1)NC=C2 | C7H5BrN2
reactant | Sodium hydride | [H-].[Na+]
reactant | Methanesulfonyl chloride | 0.85 mmol, 66 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Bromo-1-(methylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | BrC1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C | C8H7BrN2O2S
